US05633248
1-(5-Amino-4,4-diphenylpentyl)-4-phenylpiperidine
To a solution of 1-(5-formylamino-4,4-diphenylpentyl)-4-phenylpiperidine (2.07 g) in methanol (50 ml) was added 1N-sodium hydroxide (30 ml) and the mixture was refluxed overnight. This reaction mixture was concentrated to dryness and the group was extracted using methylene chloride and water. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated to dryness to provide the title compound (1.94 g) as yellow powder.

reactant | 1-(5-formylamino-4,4-diphenylpentyl)-4-phenylpiperidine | 2.07 g | C(=O)NCC(CCCN1CCC(CC1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H34N2O
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-(5-Amino-4,4-diphenylpentyl)-4-phenylpiperidine | 1.94 g | NCC(CCCN1CCC(CC1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H34N2
